US04522647
Following the procedure of Example 1, 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid chloride is added to the sodium salt of methyl propionylacetate in benzene to give methyl 2-propionyl-4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-oxopentanoate (cpd. 16 in Table A). This pentanoate is then heated with DMSO and NaCl to give 2-[4-(4-trifluoromethylphenoxy)phenoxy]-3,5-heptanedione (cpd. 16, Table B).

reactant | 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid chloride | FC(C1=CC=C(OC2=CC=C(OC(C(=O)Cl)C)C=C2)C=C1)(F)F | C16H12ClF3O3
reactant | sodium | [Na] | Na
reactant | methyl propionylacetate | C(CC)(=O)CC(=O)OC | C6H10O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | methyl 2-propionyl-4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-oxopentanoate | C(CC)(=O)C(C(=O)OC)C(C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)=O | C22H21F3O6
